US04835281
N-sulfamyl-acrylamidine was prepared by a four-step procedure from 3-(methylthio)-propionitrile, with an extremely low (5.5%) yield in several days. The products of the subsequent steps, including famotidine, were isolated by column chromatography.

reactant | 3-(methylthio)-propionitrile | CSCCC#N | C4H7NS
reactant | famotidine | C1=C(N=C(S1)NC(=N)N)CSCCC(=N)NS(=O)(=O)N | C8H15N7O2S3
product | N-sulfamyl-acrylamidine | S(N)(=O)(=O)NC(C=C)=N | C3H7N3O2S
